US08048887B2
2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(5-methyl-1,2,4-oxadiazol-3-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide
To a mixture of 2-(4-fluorophenyl)-5-(5-(1-(N-hydroxycarbamimidoyl)cyclopropylcarbamoyl)-2-methylphenyl)-N-methylbenzofuran-3-carboxamide (46.5 mg, 0.093 mmol, crude) in pyridine (0.5 mL, 6.18 mmol) at r.t. under N2 was added acetyl chloride (0.020 mL, 0.279 mmol). The mixture was stirred at 115° C. for 2 hours. The mixture was cooled to r.t., diluted with MeOH and purified by Shimadzu-VP preparative reverse phase HPLC using the separation method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=50, Final % B=100, Gradient time=10 min, Stop time=12 min, Flow Rate=25 mL/min, Column: Waters-Sunfire 19×100 mm S5, Fraction Collection: 7.64-7.95 min. (UV detection at 220 nm). The residue obtained after evaporation of the combined fractions was further purified by preparative TLC, 10% MeOH/CH2Cl2, two 20 cm×20 cm×0.5 mm plates. Rf about 0.67 (10% MeOH/CH2Cl2). 1H NMR (500 MHz, CD3OD) δ 7.98 (m, J=9.00, 5.34, 2H), 7.81 (s, 1H), 7.80 ((m overlapped with s, J=2.14, 1H), 7.66 (d, J=8.55, 1H), 7.65 (d, J=1.22, 1H), 7.43 (d, J=8.55, 1H), 7.36 (dd, J=8.55, 1.83, 1H), 7.28 (m, J=8.70, 2H), 2.96 (s, 3H), 2.54 (s, 3H), 2.35 (s, 3H), 1.59 (m, 2H), 1.43 (m, 2H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=5 ml/min, Column: PHENOMENEX® Luna, 3.0×50 mm, S10; (ES+) m/z (M+H)+=525.07, HPLC Rt=1.682 min. Analytical HPLC were performed by using Shimadzu-VP instrument with UV detection at 220 nm and 254 nm. Analytical HPLC method: Solvent A=5% MeCN-95% H2O-0.1% TFA, Solvent B=95% MeCN-5% H2O-0.1% TFA, Start % B=50, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min, Column: Sunfire C18, 3.5 um, 4.6×150 mm, Rt=6.67 min; Column: XBridge phenyl 3.5 um, 4.6×150 mm, Rt=5.22 min. Analytical HPLC method: Solvent A=5% MeOH-95% H2O-10 mM NH4HCO3, Solvent B=95% MeOH-5% H2O-10 mM NH4HCO3, Start % B=50, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min, Column: XBridge phenyl 3.5 um, 4.6×150 mm, Rt=12.36 min.

reactant | 2-(4-fluorophenyl)-5-(5-(1-(N-hydroxycarbamimidoyl)cyclopropylcarbamoyl)-2-methylphenyl)-N-methylbenzofuran-3-carboxamide | 0.093 mmol, 46.5 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=CC(=C2)C(NC2(CC2)C(NO)=N)=O)C | C28H25FN4O4
reactant | pyridine | 6.18 mmol, 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.279 mmol, 0.020 mL | C(C)(=O)Cl | C2H3ClO
solvent | MeOH | CO | CH4O
product | 2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(5-methyl-1,2,4-oxadiazol-3-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=CC(=C2)C(NC2(CC2)C2=NOC(=N2)C)=O)C | C30H25FN4O4
